US07951826B2
4-(5-Chloro-pentyloxy)-benzoic acid
4-(5-Chloropentyloxy)benzoic acid methyl ester (1.14 g. 4.44 mmol) is dissolved in MeOH (15 mL) and 5 N NaOH (10 mL) is added. The reaction mixture is stirred at room temperature overnight. The reaction mixture is concentrated in vacuo and the residue is dissolved in water, acidified with concentrated hydrochloric acid to pH=1.0. This solution is extracted with CH2Cl2, dried over Na2SO4, filtered and evaporated. The resulting material is recrystallized from hexane/CH2Cl2, filtered and dried, to provide 829 mg (77%). NMR (CDCl3): δ 8.05 (d, 2H, J=9 Hz), 6.93 (d, 2H, J=9 Hz), 4.05 (t, 2H, J=6 Hz), 3.57 (t, 2H, J=6 Hz), 4.85 (m, 4H), 1.65 (m, 2H).

reactant | 4-(5-Chloropentyloxy)benzoic acid methyl ester | 4.44 mmol, 1.14 g | COC(C1=CC=C(C=C1)OCCCCCCl)=O | C13H17ClO3
reactant | NaOH | 5 N, 10 mL | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 4-(5-Chloro-pentyloxy)-benzoic acid | ClCCCCCOC1=CC=C(C(=O)O)C=C1 | C12H15ClO3
